US05023256
3-Benzyl-2-(2-dimethylaminoethylamino)-3H-imidazo[4,5-b]pyridine dihydrochloride
Grams 5 of 3-benzyl-2-chloro-3H-imidazo[4,5-b]pyridine and 9 ml N,N-dimethylethylenediamine are refluxed for 3 hours, then the amine in excess is removed by evaporation under vacum, the oily residue taken up with absolute ethyl alcohol and 10 ml 32% hydrochloric acid are added thereto, the solid crystalline filtered and washed with absolute ethyl alcohol. It is evaporated till dryness and 2.1 g 3-benzyl-2-(2-dimethylaminoethylamino)-3-H-imidazo[4,5-b]pyridine dihydrochloride melting at 262°-264° C. (with decomposition) are obtained.

reactant | 3-benzyl-2-chloro-3H-imidazo[4,5-b]pyridine | C(C1=CC=CC=C1)N1C(=NC=2C1=NC=CC2)Cl | C13H10ClN3
reactant | N,N-dimethylethylenediamine | 9 ml | CN(CCN)C | C4H12N2
product | 3-Benzyl-2-(2-dimethylaminoethylamino)-3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C(=NC=2C1=NC=CC2)NCCN(C)C | InChI=1S/C17H21N5.2ClH/c1-21(2)12-11-19-17-20-15-9-6-10-18-16(15)22(17)13-14-7-4-3-5-8-14;;/h3-10H,11-13H2,1-2H3,(H,19,20);2*1H
